US04028319
A solution containing 19.5 parts N-t-butoxycarbonylglycine 2,4,5-trichlorophenyl ester and 13.8 parts L-alanine benzyl ester in 200 parts methylene chloride is stirred overnight at room temperature. The solvent is then removed by evaporation under reduced pressure and the residue subjected to low pressure column chromatography. The resulting pure N-t-butoxycarbonylglycyl-L-alanine benzyl ester is dissolved in 60 parts dioxane and treated with a ten-fold excess of 2 N HCl in dioxane, with stirring, for 15 minutes. The solvent is again removed by evaporation under reduced pressure and the residue triturated with ethyl ether to afford glycyl-L-alanine benzyl ester hydrochloride. This compound is represented by the following formula

reactant | N-t-butoxycarbonylglycine 2,4,5-trichlorophenyl ester | ClC1=C(C=C(C(=C1)Cl)Cl)OC(CNC(=O)OC(C)(C)C)=O | C13H14Cl3NO4
reactant | L-alanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)C)=O | C10H13NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | glycyl-L-alanine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@@H](NC(CN)=O)C)=O | InChI=1S/C12H16N2O3.ClH/c1-9(14-11(15)7-13)12(16)17-8-10-5-3-2-4-6-10;/h2-6,9H,7-8,13H2,1H3,(H,14,15);1H/t9-;/m0./s1
